US06969716B2
5 5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine (100 mg, 0.27 mmol) was coupled to 3-fluoro-2-tributylstannylpyridine (127 mg, 0.33 mmol) using the method described in Example 22 to give 3-(2,4-difluorophenyl)-5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-[1,2,4]triazine as a pale yellow solid (60 mg): δH (400 MHz, CDCl3) 6.99-7.10 (2H, m), 7.39-7.47 (2H, m), 7.56-7.61 (1H, m), 8.29-8.36 (1H, m), 8.41-8.45 (1H, m), 8.53 (1H, dd, J 2.3, 6.7 Hz), 8.60-8.63 (1H, m), 9.68 (1H, s); m/z (ES+) 383.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine | 0.27 mmol, 100 mg | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F | C15H7BrF3N3
reactant | 3-fluoro-2-tributylstannylpyridine | 0.33 mmol, 127 mg | FC=1C(=NC=CC1)[Sn](CCCC)(CCCC)CCCC
product | 3-(2,4-difluorophenyl)-5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-[1,2,4]triazine | 60 mg | FC1=C(C=CC(=C1)F)C=1N=NC=C(N1)C1=CC(=C(C=C1)F)C1=NC=CC=C1F | C20H10F4N4
